US07687491B2
(10c) 5-({[t-Butyl(dimethyl)silyl]oxy}methyl)-3-ethylthiophene-2-carbonitrile
To a suspension of 5-({[t-butyl(dimethyl)silyl]oxy}methyl)-3-ethylthiophene-2-carboxaldehyde (1.3 g, 4.8 mmol) that was obtained in Example 10 (10b) and hydroxylamine hydrochloride (0.37 g, 5.3 mmol) in dichloromethane (20 ml) were added successively methanol (2 ml) and triethylamine (1.3 ml, 9.6 mmol) with stirring, and the resulting mixture was stirred at room temperature for 2 hours. After removing the solvent in vacuo, toluene (10 ml) was added to the residue and the resulting mixture was evaporated azeotropically in vacuo. Subsequently, the residue obtained and N,N′-dicyclohexylcarbodiimide (1.1 g, 5.3 mmol) were suspended in toluene (20 ml) and stirred at 90° C. for 15 hours. After cooling to room temperature, hexane (20 ml) was added to the reaction mixture, and the resulting mixture was filtered with Celite. The filtrate was evaporated in vacuo, and the crude product of the title compound thus obtained was purified by chromatography on a silica gel column using a mixed solvent of ethyl acetate and hexane (0:10 to 5:95) as the eluent to afford the title compound (0.94 g) in a yield of 69% as a pale yellow oily product.

reactant | 5-({[t-butyl(dimethyl)silyl]oxy}methyl)-3-ethylthiophene-2-carboxaldehyde | 4.8 mmol, 1.3 g | [Si](C)(C)(C(C)(C)C)OCC1=CC(=C(S1)C=O)CC | C14H24O2SSi
reactant | hydroxylamine hydrochloride | 5.3 mmol, 0.37 g | Cl.NO
reactant | triethylamine | 9.6 mmol, 1.3 ml | C(C)N(CC)CC | C6H15N
reactant | N,N′-dicyclohexylcarbodiimide | 5.3 mmol, 1.1 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
solvent | hexane | 20 ml | CCCCCC | C6H14
solvent | methanol | 2 ml | CO | CH4O
product | 5-({[t-Butyl(dimethyl)silyl]oxy}methyl)-3-ethylthiophene-2-carbonitrile | yield of 69% | [Si](C)(C)(C(C)(C)C)OCC1=CC(=C(S1)C#N)CC | C14H23NOSSi
